US06004948
3-(2,4-Dichlorophenoxy)-4-methylsulphonylaminobenzene-sulphonic acid N-benzylamide
3-(2,4-Dichlorophenoxy)-4-methylsulphonylaminobenzene-sulphonic acid chloride (1.08 g, 2.51 mmol) was dissolved in CH2Cl2 (5 ml) and at 0° C. added dropwise to a solution of benzylamine (0.35 ml, 3.2 mmol) in pyridine (20 ml). The mixture was stirred for 2 hours at 0° C. and then evaporated down. The residue was dried in vacuo and purified by chromatography (silica gel, CHCl3 /MeOH 19/1). Yield: 0.18 g=15% 13C (100 MHz, DMSO-d6) δ 149.94, 147.70, 137.38, 137.26, 132.04, 130.41, 129.55, 129.19, 128.30, 127.71, 127.28, 126.23, 123.52, 122.87, 122.67, 114.71, 46.23, 40.92

reactant | 3-(2,4-Dichlorophenoxy)-4-methylsulphonylaminobenzene-sulphonic acid chloride | 2.51 mmol, 1.08 g | ClC1=C(OC=2C=C(C=CC2NS(=O)(=O)C)S(=O)(=O)Cl)C=CC(=C1)Cl | C13H10Cl3NO5S2
reactant | benzylamine | 3.2 mmol, 0.35 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 3-(2,4-Dichlorophenoxy)-4-methylsulphonylaminobenzene-sulphonic acid N-benzylamide | C(C1=CC=CC=C1)NS(=O)(=O)C1=CC(=C(C=C1)NS(=O)(=O)C)OC1=C(C=C(C=C1)Cl)Cl | C20H18Cl2N2O5S2
